US08193228B2
1-[6-(1H-pyrazol-1-yl)pyridin-3-yl]ethanone
Methylmagnesium bromide (3 M in tetrahydrofuran) (3.16 mL, 9.5 mmol) was added to a −78° C. solution of N-methoxy-N-methyl-6-(1H-pyrazol-1-yl)nicotinamide (2.0 g, 8.6 mmol) in tetrahydrofuran (10 mL). After stirring at ambient temperature overnight, the reaction mixture was quenched with brine and extracted with ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo to afford the title compound.

reactant | Methylmagnesium bromide | 9.5 mmol, 3 M, 3.16 mL | C[Mg]Br
reactant | N-methoxy-N-methyl-6-(1H-pyrazol-1-yl)nicotinamide | 8.6 mmol, 2.0 g | CON(C(C1=CN=C(C=C1)N1N=CC=C1)=O)C | C11H12N4O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-[6-(1H-pyrazol-1-yl)pyridin-3-yl]ethanone | N1(N=CC=C1)C1=CC=C(C=N1)C(C)=O | C10H9N3O
